US04661635
2-Iodo-5-methoxy-N,N-bis(2-phenylethyl)benzenepropanamine
A sample of 3.7 g (59 mmole) of sodium cyanoborohydride was added to a solution of 6.0 g (19.7 mmole) of 2 iodo-5-methoxy-α-methylbenzenepropanamine and 14.2 ml (0.12 mole) of phenylacetaldehyde in 60 ml of MeOH. Methanolic hydrogen chloride was added dropwise. After 16 hr the mixture was made frankly acidic by addition of methanolic hydrogen chloride. The mixture was stirred for one hour. The MeOH was evaporated in vacuo and the residue partitioned between ether and NaOH solution. The ether was evaporated in vacuo. The residue was redissolved in ether and ethereal hydrogen chloride added. The ether was decanted from the precipitated gum and the gum washed twice with ether. The gum was partitioned between NaOH solution and ether. The ether was washed with brine, dried and the solvent evaporated in vacuo. The volatile by products were removed by heating the residue up to 125° C. at 0.005 mm Hg in a Kugelrohr. The pot residue contained 9.1 g 26% yield of the title compound as a pale yellow oil.

reactant | sodium cyanoborohydride | 59 mmole, 3.7 g | C(#N)[BH3-].[Na+]
reactant | iodo-5-methoxy-α-methylbenzenepropanamine | IC1=C(C=C(C=C1)OC)CCC(N)C | C11H16INO
reactant | phenylacetaldehyde | 0.12 mole, 14.2 ml | C1(=CC=CC=C1)CC=O | C8H8O
reactant | hydrogen chloride | Cl | ClH
solvent | MeOH | 60 ml | CO | CH4O
product | 2-Iodo-5-methoxy-N,N-bis(2-phenylethyl)benzenepropanamine | 9.1 g, 26% yield | IC1=C(C=C(C=C1)OC)CCCN(CCC1=CC=CC=C1)CCC1=CC=CC=C1 | C26H30INO
